US07745414B2
4-(β-D-glucopyranos-1-yl)-2-(4-iodo-benzyl)-benzonitrile
A 1 M solution of iodine monochloride in dichloromethane (0.9 mL) is added to 4-(β-D-glucopyranos-1-yl)-2-(4-trimethylsilyl-benzyl)-benzonitrile (0.26 g) dissolved in dichloromethane (5 mL). The solution is stirred at room temperature for 1 h and then quenched by the addition of aqueous Na2S2O3 solution and aqueous NaHCO3 solution. The organic phase is separated and the aqueous phase is extracted with ethyl acetate. The combined organic phases are dried over sodium sulfate and the solvent is removed. The residue is chromatographed on silica gel (dichloromethane/methanol 1:0->8:1).

reactant | iodine monochloride | ICl | ClI
reactant | 4-(β-D-glucopyranos-1-yl)-2-(4-trimethylsilyl-benzyl)-benzonitrile | 0.26 g | O[C@]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=CC(=C(C#N)C=C1)CC1=CC=C(C=C1)[Si](C)(C)C | C23H29NO6Si
solvent | dichloromethane | 0.9 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-(β-D-glucopyranos-1-yl)-2-(4-iodo-benzyl)-benzonitrile | O[C@]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=CC(=C(C#N)C=C1)CC1=CC=C(C=C1)I | C20H20INO6
